US04107307
2-(Methoxymethyl)-4-imidazolecarboxaldehyde
A 145.9 gm. portion of 2-methoxymethyl-4-imidazolemethanol and 137 ml. of concentrated HNO3 are reacted as described in Example 15. After adjusting the pH to 7.0 with concentrated aqueous Na2CO3, the solution is concentrated under vacuum. Extraction of the residue three times with hot ethanol gives, after combining and concentrating the extracts, a yellow gum. This gum is chromatographed on silica gel. Fractions 7-15 are combined and recrystallized from 120 ml. of isopropanol, treated with charcoal and the desired product is recovered, m.p. 100°-103° C.

reactant | 2-methoxymethyl-4-imidazolemethanol | COCC=1NC=C(N1)CO | C6H10N2O2
reactant | HNO3 | [N+](=O)(O)[O-] | HNO3
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
product | 2-(Methoxymethyl)-4-imidazolecarboxaldehyde | COCC=1NC=C(N1)C=O | C6H8N2O2
